US07741326B2
Dry methanol (5 ml) and NaOMe (0.9 ml, 3.93 mmol, 25% wt in MeOH) were added to a three-neck flask equipped with stirrer, low-temperature thermometer, and nitrogen line. The resulting solution was cooled in a dry ice/CH3CN bath to −40° C. A solution of 2-bromo-4-fluoro-benzaldehyde (195 mg, 0.96 mmol) and methyl azidoacetate (450 mg, 3.9 mmol) in dry MeOH (5 ml) was added dropwise. The mixture was allowed to stir at −40° C. for 30 minutes before warming up to room temperature. After stirring another 3 hours, the reaction solvent was removed under reduced pressure. The residue was added to xylene (15 ml), and the organic phase was washed with H2O, brine, followed by drying over MgSO4. The resulting solution was added dropwise to a flask of xylene (30 ml) and the solution was heated at reflux overnight. After cooling to room temperature, the reaction mixture was washed with H2O, and xylene was removed under reduced pressure to give 4-bromo-6-fluoro-1H-indole-2-carboxylic acid methyl ester as a white solid (178 mg, 68%). MS: 272.1 (M−H)−.

reactant | NaOMe | 3.93 mmol, 0.9 ml | C[O-].[Na+]
reactant | 2-bromo-4-fluoro-benzaldehyde | 0.96 mmol, 195 mg | BrC1=C(C=O)C=CC(=C1)F | C7H4BrFO
reactant | methyl azidoacetate | 3.9 mmol, 450 mg | N(=[N+]=[N-])CC(=O)OC | C3H5N3O2
solvent | MeOH | 5 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | 4-bromo-6-fluoro-1H-indole-2-carboxylic acid methyl ester | 178 mg, 68% | COC(=O)C=1NC2=CC(=CC(=C2C1)Br)F | C10H7BrFNO2
